US04324915
1-(3-(2-(Dimethylamino)ethenyl)-2,2-dimethylcyclopropyl)-2-propanone
To 6.7 g of 2,2-dimethyl-3-(2-oxopropyl)cyclopropylacetaldehyde at 0° C. was added 5.2 g of trimethylsilyldimethylamine over a 5 min period. The resulting product was distilled through a spiral bantamware column to yield 6.7 g of the desired product having a boiling point of 85°-90° at 1 mm Hg.

reactant | 2,2-dimethyl-3-(2-oxopropyl)cyclopropylacetaldehyde | 6.7 g | CC1(C(C1CC(C)=O)CC=O)C | C10H16O2
reactant | trimethylsilyldimethylamine | 5.2 g | C[Si](C)(C)N(C)C | C5H15NSi
product | 1-(3-(2-(Dimethylamino)ethenyl)-2,2-dimethylcyclopropyl)-2-propanone | 6.7 g | CN(C=CC1C(C1CC(C)=O)(C)C)C | C12H21NO
